US06194425B1
N1-[2-(4-Amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-2-amino-4-methylpentanamide
1,1-Dimethylethyl N-[1-({[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]amino}carbonyl)-3-methylbutyl]carbamate (0.35 g, 0.7 mmol) was combined with 1 N hydrochloric acid (40 mL) and heated on a steam bath for 30 minutes. The reaction mixture was allowed to cool and then it was made basic with 10% sodium hydroxide. The resulting precipitate was isolated by filtration and dried to provide 0.15 g of N1-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-2-amino-4-methylpentamide as a white solid, m.p.60-65° C. Analysis: Calculated for C21H31N7O: % C, 63.27; % H, 7.86; % N, 24.66; Found: % C, 62.27; % H, 7.67; % N, 24.77. HRMS (EI) calcd for C21H31N7O (M+) 397.2590 found 397.2582.

reactant | 1,1-Dimethylethyl N-[1-({[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]amino}carbonyl)-3-methylbutyl]carbamate | 0.7 mmol, 0.35 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCNC(=O)C(CC(C)C)NC(OC(C)(C)C)=O)CCCC | C26H39N7O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 1 N, 40 mL | Cl | ClH
product | N1-[2-(4-Amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-2-amino-4-methylpentanamide | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCNC(C(CC(C)C)N)=O)CCCC | C21H31N7O
